simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vref (phase_a 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=4n period=10n
Vdiv (phase_b 0) vsource type=pulse val0=0 val1=0.9 delay=4n rise=50p fall=50p width=4n period=10n

XDUT (phase_a phase_b vdd vss raise_pulse lower_pulse) v2_pfd_not_xor_004

tran tran stop=120n maxstep=500p
save phase_a phase_b raise_pulse lower_pulse
